US05025013
Benzylpiperidone (2 g), dissolved in toluene (10 cc), is stirred under argon for 48 hours at room temperature in the presence of 4-fluoroaniline (1.4 g) and 5 Å molecular sieve (4 g). After filtration and concentration to dryness under reduced pressure (5.2 kPa), yellow crystals are obtained, which are then dissolved in methanol (30 cc). This solution is then added to a solution, cooled to 0°-5° C., of sodium cyanoborohydride (1.34 g) and zinc chloride (1.4 g) in methanol (20 cc). After 20 hours at room temperature, the product is taken up with 10N sodium hydroxide solution (5 cc) and with water (20 cc) and the mixture is heated to reflux for 1 hour. The mixture is filtered through a sinter and the filtrate is extracted twice with dichloromethane (100 cc). The organic phase is then dried over magnesium sulphate and thereafter concentrated to dryness under reduced pressure (5.2 kPa). N-Benzyl-4-(4-fluoroanilino)piperidine (2.8 g) is thereby obtained in the form of a whitish powder, m.p. 84° C.

reactant | Benzylpiperidone | 2 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | 4-fluoroaniline | 1.4 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium cyanoborohydride | 1.34 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 10N, 5 cc | [OH-].[Na+]
solvent | toluene | 10 cc | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 30 cc | CO | CH4O
solvent | methanol | 20 cc | CO | CH4O
catalyst | zinc chloride | 1.4 g | [Cl-].[Zn+2].[Cl-]
solvent | water | 20 cc | O | H2O
product | N-Benzyl-4-(4-fluoroanilino)piperidine | 2.8 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=CC=C(C=C1)F | C18H21FN2
